US05075301
A mixture consisting of 49.0 g (248 mmol) of ethyl 5-(dimethylaminomethyl)-2-furancarboxylate and 150 g (2.496 mol) of anhydrous ethylenediamine was heated at 80° C. for 2 hours. After cooling, the excess ethylenediamine was distilled off under reduced pressure to give 54.8 g (98.0%) of 5-(dimethylaminomethyl)-N-(2-aminoethyl)-2-furancarboxamide (Compound a) as light yellow oil.

reactant | ethyl 5-(dimethylaminomethyl)-2-furancarboxylate | 248 mmol, 49.0 g | CN(C)CC1=CC=C(O1)C(=O)OCC | C10H15NO3
reactant | ethylenediamine | 2.496 mol, 150 g | C(CN)N | C2H8N2
product | 5-(dimethylaminomethyl)-N-(2-aminoethyl)-2-furancarboxamide | 54.8 g, 98.0% | CN(C)CC1=CC=C(O1)C(=O)NCCN | C10H17N3O2
